US08664220B2
Step 1: 4-Bromo-2-(2-chloro-phenyl)-pyridine
Prepared according to the procedure described in Example 1, Step 10, using 2,4-dibromo-pyridine and 2-chlorophenylboronic acid.

reactant | 2,4-dibromo-pyridine | BrC1=NC=CC(=C1)Br | C5H3Br2N
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 4-Bromo-2-(2-chloro-phenyl)-pyridine | BrC1=CC(=NC=C1)C1=C(C=CC=C1)Cl | C11H7BrClN
